US07579341B2
(R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-((S)-2-carboxy-pyrrolidin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 2.9 mg (0.12 mmol) LiOH in 1 mL water was added to a solution of 60 mg (0.08 mmol) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-((S)-2-methoxycarbonyl-pyrrolidin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 3 mL THF and the reaction mixture was stirred overnight at RT. The solvent was eliminated in the nitrogen stream, the residue was taken up in 1 mL water, formic acid was added until an acidic reaction was obtained and the mixture was exhaustively extracted with EtOAc. The combined organic extracts were dried over Na2SO4, filtered and evaporated down i. vac. The residue was taken up in a little water and acetonitrile and freeze-dried.

reactant | LiOH | 0.12 mmol, 2.9 mg | [Li+].[OH-]
reactant | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-((S)-2-methoxycarbonyl-pyrrolidin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.08 mmol, 60 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1[C@@H](CCC1)C(=O)OC)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C36H44ClF3N6O6
reactant | formic acid | C(=O)O | CH2O2
solvent | water | 1 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-((S)-2-carboxy-pyrrolidin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1[C@@H](CCC1)C(=O)O)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C35H42ClF3N6O6
